US07368578B2
To a mixture of ethyl 5-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylate (1.05 g), tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was heated under reflux for 30 min. To the reaction mixture were added 1N hydrochloric acid (5 mL) and water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 5-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylic acid as colorless crystals (0.26 g, yield 25%) from a fraction eluted with ethyl acetate-methanol (6:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. Melting point: 165-166° C.

reactant | ethyl 5-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylate | 1.05 g | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(S2)C(=O)OCC)C=C1)OC | C35H38N3O9PS
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]thiophene-2-carboxylic acid | 0.26 g, yield 25% | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(S2)C(=O)O)C=C1)OC | C33H34N3O9PS
